US05616637
A2c) 1-Cyclohexyloxy-2,2,6,6-tetramethyl-4-hydroxypiperidine
24 g (428 mmol) of potassium hydroxide are dissolved in 600 ml of methanol in a conical flask. 85 g (286 mmol) of 1-cyclohexyloxy-2,2,6,6-tetramethyl-4-acetoxypiperidine are poured into the warm solution with stirring. The mixture is subsequently poured onto ice and extracted with diethyl ether. After the diethyl ether solution has been dried over sodium sulfate, the ether is evaporated and the viscous residue is dissolved in 300 ml of warm acetonitrile. The solution is filtered and allowed to crystallize; yield: 50 g (68%). The colourless substance has a melting point of 78.5° C.; purity according to GC analysis: 96%.

reactant | potassium hydroxide | 428 mmol, 24 g | [OH-].[K+]
reactant | 1-cyclohexyloxy-2,2,6,6-tetramethyl-4-acetoxypiperidine | 286 mmol, 85 g | C1(CCCCC1)ON1C(CC(CC1(C)C)OC(C)=O)(C)C | C17H31NO3
solvent | methanol | 600 ml | CO | CH4O
product | 1-Cyclohexyloxy-2,2,6,6-tetramethyl-4-hydroxypiperidine | C1(CCCCC1)ON1C(CC(CC1(C)C)O)(C)C | C15H29NO2
